datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:10](C(C9=CC=CC=C9)C(C)C([H])[NH]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C([H])[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21][H])[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]2.C[O:10][H] 21=20;20,10=10"
"[O-:21][C:20]1([H])C(C)C(C)=C([H])C(CC)[O+:10]1([Na])>>[O:10]([Na])C(CC)/C([H])=C(C)\C(C)[C:20]([H])=[O:21] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]([O:21]C)([O]CC)[O]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].C[O+:21]=[C:20]([O]CC)[O]CC 21=20;20,10=10"
"[H][O+:10](C(C)C([H])C(CC)[NH]1)[C:20]1([NH:21]C)[NH]C.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(CC)[NH][C:20]([NH]C)=[NH+:21]C 21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)CCCCCC.[O-:21]CC>>[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)CCCCCC)CCCCCC 21=20;20,10=10"
"[H][S+:10](C(C)C(C)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O]CC.[Cl-]>>[Cl-].[H][S:10]C(C)C(C)[S][C:20]([O]CC)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C(C)=C(C)C([H])C(C)[O+:10]1([K])>>[O:10]([K])C(C)C([H])/C(C)=C(C)\[C:20](OCC)=[O:21] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C1=CC=CC=C1)CCCCCC)CCCCCC>>CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)CCCCCC)CCCCCC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1CC)C)[H].[O-:21]C1=CC=CC=C1>>[H]C1C(C(O[C:20](N1CC)([O-:10])[O:21]C1=CC=CC=C1)C)[H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1 10=20;20,21=21"
"[H][NH:10]C(C)C(C)C([H])[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH:10]C([H])C(C)C(CC)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C)C(CC)[O]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7 10=20;20,21=21"
"[OH:10]C(C)C([H])C(O)C([H])[C:20]([H])=[OH+:21]>>[OH:21][C:20]1([H])C([H])C(O)C([H])C(C)[OH+:10]1 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)[H])CCCCCC)CC)[O-:10])CC>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])[H])CCCCCC)CC)CC 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C([H])C(CC)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O]C([H])C(CC)[O]2.[H][O:10][H] 21=20;20,10=10"
"[NH:10]([H])C(C)C(C)C([H])C([H])[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C([H])C([H])C(C)C(C)[NH+:10]1([H]) 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1[H])[H])CC.[O-:21][H]>>[H]C1C(C(O[C:20](N1[H])([O-:10])[O:21][H])[H])CC 21=20;20,10=10"
"[OH:10]C(CCC)C(C)C([C:20](OC)=[OH+:21])O>>[OH:21][C:20]1(OC)[OH+:10]C(CCC)C(C)C1O 10=20;20,21=21"
"CC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CCCCCC)C1=CC=CC=C1)[H]>>CC1C(C(O[C:20](=[O:10])N1CCCCCC)C1=CC=CC=C1)[H].[O-:21]CCCCCC 10=20;20,21=21"
"[H][O+:10](C(C)C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(C8=CC=CC=C8)[S][C:20]([O]CC)=[O+:21]C 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([O:21]C)[S][CH]([H])C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH]([H])[CH](C)C([H])[O]2.CC[O:10][H] 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C)[H])C>>[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])C.[O-:21]C 10=20;20,21=21"
"[H][O:10]C([H])C([H])C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C(C)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O]C.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(C8=CC=CC=C8)[O][C:20]([O]C)=[NH+:21][H] 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)CC)C)CC)[O-:10])C1=CC=CC=C1>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CC)C)CC)C1=CC=CC=C1 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C(C)C([H])=C(C)C(C)[O:10]1>>[O-:10]C(C)/C(C)=C([H])\C(C)[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][S+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][Si](C)(C)(C))[S]CC.[Cl-]>>[Cl-].[H][S:10]C(C)C(C8=CC=CC=C8)[O][C:20]([S]CC)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1C)[H])CC.[O-:21]CC>>[H]C1C(C(O[C:20](N1C)([O-:10])[O:21]CC)[H])CC 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH]([H])C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(C)[O]2.CC[NH:10][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(C)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](C)C([H])[CH](C)[NH]1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([O:21]C)[S]C([H])C(C)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S]C([H])C(C)[O]2.CC[O:10][H] 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])[H])CC>>[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])CC.[O-:21][H] 10=20;20,21=21"
"CCN([C:20]1(OC(C(C([O:21]1)[H])C)C1=CC=CC=C1)[O-:10])CC>>CCN([C:20](=[O:10])OC(C(C([O-:21])[H])C)C1=CC=CC=C1)CC 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O]C([H])C(CC)[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21][H])[O]C([H])C(CC)[NH]1 10=20;20,21=21"
